US06514966B2
A suspension of 2-chloro-5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridine dihydrochloride (1.07 g, 2.6 mmol), N-isobutylpiperazine (0.95 g, 6.72 mmol), potassium carbonate (0.5 g, 3.62 mmol), and potassium iodide (0.5 g, 0.54 mmol) in xylenes (5 mL) was heated to reflux under a nitrogen atmosphere for 24 hours. The reaction mixture was then cooled to ambient temperature and a solution of potassium carbonate (g) in water (10 mL) and cyclohexane (10 mL) were added. The mixture was stirred vigorously for 15 min, and the precipitate was collected by filtration. The filter cake was washed with water (10 mL) and triturated with methyl tert-butyl ether (4 mL) to provide 1-{5-[5-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isobutyl-piperazine (2.07 mmol). MS m/z 430 (M++1).

reactant | 2-chloro-5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridine dihydrochloride | 2.6 mmol, 1.07 g | Cl.Cl.ClC1=NC=C(C=C1)C=1NC=C(N1)C1=CC(=C(C=C1)Cl)Cl
reactant | N-isobutylpiperazine | 6.72 mmol, 0.95 g | C(C(C)C)N1CCNCC1 | C8H18N2
reactant | potassium carbonate | 3.62 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.54 mmol, 0.5 g | [I-].[K+]
solvent | water | 10 mL | O | H2O
solvent | cyclohexane | 10 mL | C1CCCCC1 | C6H12
product | 1-{5-[5-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-4-isobutyl-piperazine | 2.07 mmol | ClC=1C=C(C=CC1Cl)C1=CN=C(N1)C=1C=CC(=NC1)N1CCN(CC1)CC(C)C | C22H25Cl2N5
